US08080541B2
Step 1: 2-Bromo-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 2 g (7.434 mmol) 2-bromo-4-trifluoromethyl-benzoic acid (CAS: 328-89-2) in 20 ml DMF under nitrogen at room temperature, was added 1.13 g (8.177 mmol) potassium carbonate and 557 ul (8.921 mmol) methyl iodide. The mixture was stirred overnight under nitrogen. The mixture was poured into water (300 ml). The aqueous layer was extracted with ethyl acetate (2×80 ml). The combined extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The crude oil was purified on silica gel (eluent: heptane/ethyl acetate 0 to 10%) to provide 1.75 g (83%) of the title compound as an orange oil.

reactant | 2-bromo-4-trifluoromethyl-benzoic acid | 7.434 mmol, 2 g | BrC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4BrF3O2
reactant | potassium carbonate | 8.177 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 8.921 mmol, 557 ul | CI | CH3I
reactant | water | 300 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-Bromo-4-trifluoromethyl-benzoic acid methyl ester | 1.75 g, 83% | COC(C1=C(C=C(C=C1)C(F)(F)F)Br)=O | C9H6BrF3O2
